US08357703B2
c) 3-Isobutoxy-5-methyl-isoxazole-4-carboxylic acid
To a stirred solution of 4-iodo-3-isobutoxy-5-methyl-isoxazole (669 mg, 2.38) in THF (10 mL) at −30° C. and under argon was added isopropylmagnesium bromide (1.49 mL of a 2.0 M solution in THF) dropwise. The reaction mixture was warmed to 0° C. and stirred for 1 h, then 1,3,5-trioxane (429 mg, 4.76 mmol) in THF (1 mL) was added and the reaction mixture warmed to 50° C. After 1.5 h to the reaction mixture was added further 1,3,5-trioxane (860 mg, 9.52 mmol) and the reaction mixture heated at 70° C. After 2 h the mixture was cooled to 0° C. and solid CO2 (˜10 g) added. After 1 h the reaction mixture was diluted with water (15 mL) then extracted with diethylether. The aqueous phase was acidified with HCl (1 N, 10 mL), then the resultant precipitate filtered off and washed with water (5 mL), then dried under vacuum (60° C.) to afford the title compound (152 mg, 32%) as a white solid. MS: m/e=198.4 [M−H]−.

reactant | 4-iodo-3-isobutoxy-5-methyl-isoxazole | 669 mg | IC=1C(=NOC1C)OCC(C)C | C8H12INO2
reactant | isopropylmagnesium bromide | C(C)(C)[Mg]Br
reactant | 1,3,5-trioxane | 4.76 mmol, 429 mg | O1COCOC1 | C3H6O3
reactant | 1,3,5-trioxane | 9.52 mmol, 860 mg | O1COCOC1 | C3H6O3
reactant | CO2 | ˜10 g | C(=O)=O | CO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 3-Isobutoxy-5-methyl-isoxazole-4-carboxylic acid | 152 mg, 32% | C(C(C)C)OC1=NOC(=C1C(=O)O)C | C9H13NO4
